US04559334
To a solution of benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (5 g) in a mixture of anisole (20 ml) and acetic acid (5 ml) was added dropwise boron trifluoride etherate (5 ml) at 10° C. After stirring for 20 minutes at 10° C., the reaction mixture was poured into a mixture of tetrahydrofuran (100 ml), ethyl acetate (100 ml) and water (100 ml), and then adjusted to pH 6.0 with 20% aqueous sodium hydroxide. The resultant aqueous layer was separated and washed with ethyl acetate under keeping the pH value at 6.0. This solution was subjected to chromatography on aluminum oxide. The fractions eluted with 3% aqueous sodium acetate were collected and adjusted to pH 4.0 with 10% hydrochloric acid. This solution was further chromatographed on nonionic adsorption resin "Diaion HP-20" (Trademark, manufactured by Mitsubishi Chemical Industries). The fractions eluted with 20% aqueous acetone were collected, concentrated in vacuo and adjusted to pH 2.0 with 10% hydrochloric acid. The resultant precipitate was collected by filtration and dried in vacuo to give 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.23 g).

reactant | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 5 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NO | C27H23N5O5S2
reactant | boron trifluoride etherate | 5 ml | B(F)(F)F.CCOCC
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | anisole | 20 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.23 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NO | C14H13N5O5S2
